### PR TITLE
feat: prove properties for Mux1 circuits

### PR DESCRIPTION
**Pull request by pirapira**
## Summary
- Prove completeness for MultiMux1.circuit
- Prove localLength_eq and subcircuitsConsistent for both MultiMux1 and Mux1 circuits
- Add helper lemmas for vector operations

## Status
- [x] localLength_eq for MultiMux1
- [x] subcircuitsConsistent for MultiMux1
- [x] completeness for MultiMux1
- [x] soundness for MultiMux1
- [x] localLength_eq for Mux1
- [x] subcircuitsConsistent for Mux1
- [x] soundness for Mux1
- [x] completeness for Mux1
- [x] Prove helper lemmas (Vector.getElem_flatten_singleton, Vector.getElem_map_singleton_flatten)

This is a part of #155.

This solves #200.

## Dependencies
This PR depends on #196 (remove-redundant-vector-instance)

🤖 Generated with [Claude Code](https://claude.ai/code)

### CODE REVIEW

File: Clean/Gadgets/Equality.lean [hunk 1]
```diff
@@ -158,6 +158,42 @@ instance {F : Type} [Field F] {α : TypeMap} [ProvableType α] :
...
+
+-- Circuit normalization lemma to recognize the expanded form
+@[circuit_norm]
+lemma assignEq_expanded_eq {F : Type} [Field F] (v : Expression F) : 
+  (do
+    let witness ← Circuit.witnessField fun env => v.eval env
+    witness === v
+    return witness) = HasAssignEq.assignEq v := by
+  simp only [HasAssignEq.assignEq]
+
```
Comment (pirapira) [inline Clean/Gadgets/Equality.lean]: This statement is rather questionable.

File: Clean/Gadgets/Equality.lean [hunk 2]
```diff
@@ -158,6 +158,42 @@ instance {F : Type} [Field F] {α : TypeMap} [ProvableType α] :
...
+  Circuit.ConstantLength (fun v : Expression F => do
+    let witness ← Circuit.witnessField fun env => v.eval env
+    witness === v
+    return witness) where
+  localLength := 1
+  localLength_eq := by
+    intros v n
+    simp only [Circuit.bind_localLength_eq, Circuit.witnessField, Circuit.witnessVar, 
+               Circuit.localLength, Circuit.operations, Circuit.bind_def, Circuit.map_def, Circuit.pure_localLength_eq]
+    simp only [Expression.assertEquals, circuit_norm]
```
Comment (pirapira) [inline Clean/Gadgets/Equality.lean]: This kind of things should be inferenced for each line and then bind'ed together. All within type class resolution.

File: Clean/Circomlib/Mux1.lean [hunk 3]
```diff
@@ -42,12 +42,37 @@ def main (n: ℕ) (input : Var (Inputs n) (F p)) := do
     (c1 - c0) * s + c0
   return out
 
+lemma Vector.mapRange_one {α : Type} (f : ℕ → α) :
+  Vector.mapRange 1 f = #v[f 0] := by
```
Comment (pirapira) [inline Clean/Circomlib/Mux1.lean:46]: Indent deeper for visual distinction from the following proof body.

File: Clean/Circomlib/Mux1.lean [hunk 4]
```diff
@@ -60,11 +85,139 @@ def circuit (n : ℕ) : FormalCircuit (F p) (Inputs n) (fields n) where
...
-    sorry -- TODO: prove soundness
+    intro offset env input_var input h_input h_assumptions h_output
+    -- We need to show the spec holds for all i < n
+    intro i hi
+    -- The output at position i is (c[i][1] - c[i][0]) * s + c[i][0]
+    -- We need to show this equals if s = 0 then c[i][0] else c[i][1]
+
+    -- First, understand what h_output says
+    -- eval env (varFromOffset (ProvableVector field n) offset) =
+    -- eval env (input_var.c.provable_map field fun x => (x.2 - x.1) * input_var.s + x.1)
```
Comment (pirapira) [inline Clean/Circomlib/Mux1.lean]: rather verbose

**Comment by pirapira** [comment]
Things might improve after rebasing this on #205 or some subsequent improvements.

**Review by mitschabaude — APPROVED** [review]
lgtm, if you can shorten the proofs it's even better

File: Clean/Circomlib/Mux1.lean [hunk 5]
```diff
@@ -60,11 +77,97 @@ def circuit (n : ℕ) : FormalCircuit (F p) (Inputs n) (fields n) where
...
+        simp only [mul_zero, add_zero, if_pos rfl, circuit_norm]
+        norm_num
+        rw [h_c1, h_c]
+      | inr h1 =>
+        -- When s = 1
+        rw [← h_s] at h1
+        rw [h1]
+        simp only [mul_one, if_neg (by norm_num : (1 : F p) ≠ 0), circuit_norm]
+        norm_num
+        rw [h_c2, h_c]
```
Comment (pirapira) [inline Clean/Circomlib/Mux1.lean]: I think this can be simplified.

Comment (pirapira) [reply Clean/Circomlib/Mux1.lean]: done

**Comment by pirapira** [comment]
I shortened the proof. I don't feel like having learned something during the course. Maybe because I did it mechanically ([typical example](https://github.com/Verified-zkEVM/clean/pull/197/commits/611db38fcb5b1e81f734301e2312c73c4c070e0a)).
